US06172057B2
2-[(2-Hydroxy-ethyl)-(4-methyl-benzyl)-amino]-ethanol was prepared according to the general method as outlined in example 83. Starting from diethanolamine (4.8 g, 46 mmol) and 4-methylbenzyl chloride (8.5 g, 46 mmol). Yield 9.8 g (99%); MS: 209.9 (M+H)+.

reactant | diethanolamine | 46 mmol, 4.8 g | N(CCO)CCO | C4H11NO2
reactant | 4-methylbenzyl chloride | 46 mmol, 8.5 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
product | 2-[(2-Hydroxy-ethyl)-(4-methyl-benzyl)-amino]-ethanol | OCCN(CCO)CC1=CC=C(C=C1)C | C12H19NO2
